US05021431
N1 -[4-(5-Bromo-3-methyl-pyridin-2-yl)butyl]-N2 [3-(1H-imidazol-4-yl)propyl]-guanidine trihydrochloride
1.00 g (2 mmol) of N1 -Benzoyl-N2 -[4-(5-bromo-3-methyl-pyridin-2-yl)butyl]-N3 -[3-(1H-imidazol-4-yl) propyl]-guanidine is boiled in 20 ml of conc. hydrochloric acid for 18 hours. The aqueous solution diluted to 40 ml after cooling is extracted with 4×20 ml of diethylether, filtered and concentrated by evaporation under vacuum. The residue is taken up twice with 20 ml of absolute ethanol and concentrated by evaporation. The crude product obtained is then converted into the base with sodium methylate and chromatographed on aluminium oxide with ethyl acetate/ methanol (1:1). After concentration by evaporation, the main fraction is taken up with 5 ml of water, 0.5 ml of conc.hydrochloric acid is added, and the mixture is concentrated by evaporation under vacuum. After the mixture has again been concentrated by evaporation with 20 ml of absolute ethanol, 0.62 g (60%) of the title compound is obtained, in the form of a colourless, hygroscopic solid.

reactant | N1 -Benzoyl-N2 -[4-(5-bromo-3-methyl-pyridin-2-yl)butyl]-N3 -[3-(1H-imidazol-4-yl) propyl]-guanidine | 2 mmol, 1.00 g | C(C1=CC=CC=C1)(=O)NC(=NCCCCC1=NC=C(C=C1C)Br)NCCCC=1N=CNC1 | C24H29BrN6O
reactant | sodium methylate | C[O-].[Na+]
reactant | hydrochloric acid | 20 ml | Cl | ClH
product | N1 -[4-(5-Bromo-3-methyl-pyridin-2-yl)butyl]-N2 [3-(1H-imidazol-4-yl)propyl]-guanidine trihydrochloride | 0.62 g, 60% | Cl.Cl.Cl.BrC=1C=C(C(=NC1)CCCCNC(=NCCCC=1N=CNC1)N)C | InChI=1S/C17H25BrN6.3ClH/c1-13-9-14(18)10-23-16(13)6-2-3-7-21-17(19)22-8-4-5-15-11-20-12-24-15;;;/h9-12H,2-8H2,1H3,(H,20,24)(H3,19,21,22);3*1H
